US08664229B2
Stage 1: 4-Methyl-2-(pyridin-3-yl)-1,3-thiazole-5-amine
10.1 g (45.6 mmol) of 3-(4-methyl-5-nitro-1,3-thiazol-2-yl)pyridine (for preparation see DE 2221647) were dissolved in 100 ml of 10% hydrochloric acid together with 10 ml of conc. hydrochloric acid, and 25 g of tin(II) chloride dissolved in 10% hydrochloric acid were added in portions, and the mixture was stirred for 1 h (hour), in the course of which heating occurred. The mixture was poured into ice/sodium hydroxide solution, methyl t-butyl ether, ethyl acetate and saturated sodium chloride solution were added, the mixture was extracted 4 times at pH=10 with ethyl acetate, the combined organic phases were dried with Mg504 and the mixture was concentrated. The residue was recrystallized from benzotrifluoride.

reactant | 3-(4-methyl-5-nitro-1,3-thiazol-2-yl)pyridine | 45.6 mmol, 10.1 g | CC=1N=C(SC1[N+](=O)[O-])C=1C=NC=CC1 | C9H7N3O2S
reactant | tin(II) chloride | 25 g | [Sn](Cl)Cl
reactant | methyl t-butyl ether | C(C)(C)(C)OC | C5H12O
reactant | sodium chloride | [Cl-].[Na+]
solvent | hydrochloric acid | 100 ml | Cl | ClH
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methyl-2-(pyridin-3-yl)-1,3-thiazole-5-amine | CC=1N=C(SC1N)C=1C=NC=CC1 | C9H9N3S
